US05149700
Step 2) Preparation of 2-(2-Aminoanilino)ethanol
According to the procedure of B. Agai, et al., Tetrahedron, 32, 839, (1976), a mixture of 2-(2-nitroanilino)ethanol (43.1 g, 0.237 mol), SnCl2.2 H2O (267.0 g, 1.18 mol), and EtOH (400 mL), was heated under reflux for 4 hours. The mixture was cooled, made basic (pH8) with 2.5N NaOH, and filtered through Celite. The filtrate was concentrated to remove the EtOH and the aqueous phase was extracted with EtOAc. The combined extracts were washed with H2O and brine, dried, and concentrated. Recrystallization from EtOH gave 31.0 g (86%) of a brown solid m.p. 105°-106° C.

reactant | 2-(2-nitroanilino)ethanol | 0.237 mol, 43.1 g | [N+](=O)([O-])C1=C(NCCO)C=CC=C1 | C8H10N2O3
reactant | SnCl2 | Cl[Sn]Cl
reactant | H2O | 1.18 mol, 267.0 g | O | H2O
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | EtOH | 400 mL | CCO | C2H6O
product | 2-(2-Aminoanilino)ethanol | 31.0 g, 86% | NC1=C(NCCO)C=CC=C1 | C8H12N2O
